US06921763B2
A solution of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (4.12 g, 0.016 mol) in N,N-dimethylformamide (50 mL) was reacted with 60% sodium hydride in oil (0.75 g, 0.019 mol) at ambient temperature. The mixture was stirred for 15 minutes, and 2-chloro-4-nitropyridine (3.00 g, 0.019 mol) was added. The mixture was heated at 100° C. for 18 hours. The mixture was cooled to room temperature and the precipitate was filtered, washing with N,N-dimethylformamide (20 mL), and then slurried in ethyl acetate (50 mL) for four hours. The solid was filtered and dried in vacuo to give 1-(2-chloro-4-pyridyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (2.39 g, 0.009 mol) as a tan solid:

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.016 mol, 4.12 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 0.019 mol, 3.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-(2-chloro-4-pyridyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.009 mol, 2.39 g | ClC1=NC=CC(=C1)N1N=C(C=2C1=NC=NC2N)I | C10H6ClIN6
